US06372758B1
Part I: Preparation of methyl 1-(2-methoxyethyl)-4-[[4-[4-(trifluoromethoxy)phenoxy]-1-piperidinyl]sulfonyl]-4-piperidinecarboxylate. The unsubstituted piperidine sulfonamide from part H (3.0 g, 6.45 mmol) was dissolved in dry dimethylformamide (15 mL) and potassium carbonate (1.3 g, 9.7 mmol) and 2-bromoethyl methyl ether (908 uL, 9.7 mmol) were added. The reaction was stirred at 35° C. for sixteen hr and then concentrated in vacuo. The residue was taken up in ethyl acetate and filtered through Celite. The filtrate washed with water two times, saturated sodium chloride solution, dried over Na2SO4, filtered, and concentrated in vacuo. Chromatography (on silica, ethyl acetate/hexanes) provided the N-methoxyethyl piperidine sulfonamide as a white solid (1.65 g, 50%).

reactant | methyl 1-(2-methoxyethyl)-4-[[4-[4-(trifluoromethoxy)phenoxy]-1-piperidinyl]sulfonyl]-4-piperidinecarboxylate | COCCN1CCC(CC1)(C(=O)OC)S(=O)(=O)N1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F | C22H31F3N2O7S
reactant | potassium carbonate | 9.7 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl methyl ether | 9.7 mmol, 908 uL | COCCBr | C3H7BrO
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-methoxyethyl piperidine sulfonamide | 1.65 g, 50% | COCCNS(=O)(=O)N1CCCCC1 | C8H18N2O3S
